US05798362
1-(2-Phenoxy-2-methylpropionyl)piperazine hydrochloride
To a solution of 17.2 g of anhydrous piperazine in 50 ml of EtOH 95% and 22 ml of H2O, 3.37 g of HBr 48% are dropped in about 10' and thereafter, in about 40' and at room temperature, a solution of 9.93 g of 2-phenoxy-2-methylpropionyl chloride (prepared according to: Bull. Soc. Chim. Fr. 1956, 776-783) in 70 ml of THF. The suspension is stirred 2 h at the same temperature and 3 h under reflux, diluted with 130 ml of THF, cooled, and the piperazine salts precipitated are filtered away. The filtered is evaporated to dryness, the residue is resuspended with 120 ml of H2O and 35 ml HCl 2N and extracted with Et2O; the aqueous phase is treated with 40 ml NaOH conc. and extracted with Et2O (4×50 ml). The ethere-phase, dried, is treated with HCl in Et2 O about 3N and the precipitate is collected by filtration and crystallized from EtOH giving 5.98 g (42%) of the wanted compound; m.p.: 236°-238° C.

reactant | piperazine | 17.2 g | N1CCNCC1 | C4H10N2
reactant | HBr | 3.37 g | Br | BrH
reactant | 2-phenoxy-2-methylpropionyl chloride | 9.93 g | O(C1=CC=CC=C1)C(C(=O)Cl)(C)C | C10H11ClO2
solvent | EtOH | 50 ml | CCO | C2H6O
solvent | H2O | 22 ml | O | H2O
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | THF | 130 ml | C1CCOC1 | C4H8O
product | 1-(2-Phenoxy-2-methylpropionyl)piperazine hydrochloride | Cl.O(C1=CC=CC=C1)C(C(=O)N1CCNCC1)(C)C | InChI=1S/C14H20N2O2.ClH/c1-14(2,18-12-6-4-3-5-7-12)13(17)16-10-8-15-9-11-16;/h3-7,15H,8-11H2,1-2H3;1H
